US05747499
To a solution of methyl α-tert-butoxycarbonylamino-p-hydroxyphenylacetate (14.3 g, 51 mmol) in 50 ml of pyridine cooled to 0° C. under stirring was added dropwise trifluoromethanesulphonic acid anhydride (15.8 g, 56 mmol). Stirring was maintained for 6 hours. The red solution was diluted with water and extracted with ether. The organic layers were washed in turn with IN HCl , water and brine, dried (MgSO4), filtered and evaporated to give an oil which after trituration with hexane crystallized to give methyl α-tert-butoxycarbonylamino-p-trifluoromethanesulphonyloxyphenyl-acetate (1 9.3 g, 92%) as a white solid, m.p. 67°-67.6° C.;

reactant | methyl α-tert-butoxycarbonylamino-p-hydroxyphenylacetate | 51 mmol, 14.3 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1=CC=C(C=C1)O | C14H19NO5
reactant | trifluoromethanesulphonic acid anhydride | 56 mmol, 15.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methyl α-tert-butoxycarbonylamino-p-trifluoromethanesulphonyloxyphenyl-acetate | 9.3 g, 92% | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C15H18F3NO7S
